US06403804B1
A mixture of 112 g (1.04 mol) of benzyl alcohol and 155 g (0.94 mol) of ethyl 4-chloro-3-oxobutyrate was added dropwise to a suspension of 82.9 g (2.07 mol) of 60% sodium hydride in 775 ml of tetrahydrofuran at 35 to 40° C. After the addition, the reaction mixture was stirred at 40° C. for 1 hour. Tetrahydrofuran was recovered from the reaction mixture, and 500 ml of heptane was added to the residue. The resulting solution was added dropwise to 800 ml of water to precipitate crystals, which were separated at room temperature and washed with heptane. To the crystals were added 800 ml of butyl acetate and 1000 ml of 1N hydrochloric acid to conduct extraction. The organic phase was washed successively with 500 ml of a 5% sodium chloride aqueous solution, 500 ml of a 5% sodium hydrogencarbonate aqueous solution, and 500 ml of a 5% sodium chloride aqueous solution to adjust the pH to 6 to 7. Butyl acetate was recovered, and 100 ml of heptane was added to the residue. The mixture was stirred, followed by liquid-liquid separation to obtain 173 g (78%) of ethyl 4-benzyloxy-3-oxobutyrate.

reactant | benzyl alcohol | 1.04 mol, 112 g | C(C1=CC=CC=C1)O | C7H8O
reactant | ethyl 4-chloro-3-oxobutyrate | 0.94 mol, 155 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | sodium hydride | 2.07 mol, 82.9 g | [H-].[Na+]
solvent | tetrahydrofuran | 775 ml | O1CCCC1 | C4H8O
product | ethyl 4-benzyloxy-3-oxobutyrate | 173 g, 78% | C(C1=CC=CC=C1)OCC(CC(=O)OCC)=O | C13H16O4
